US05070087
4-[2-Amino-1,1-bis(4-fluorophenyl)-2-oxoethyl]-1-piperidinecarboxylic acid methyl ester
A mixture of α,α-bis(4-fluorophenyl)-4-piperidineacetamide (7.65 g, 0.023 mol) and sodium bicarbonate (3.36 g, 0.023 mole) in methylene chloride was prepared. To this mixture was added a solution of methyl chloroformate (2.17 g, 0.023 mole) in methylene chloride. The resulting mixture was stirred overnight at room temperature. The mixture was extracted successively with water, 5% sodium hydroxide, and water. The methylene chloride layer was dried (sodium sulfate). The organic layer was filtered, and solvent was removed to provide a fluffy, white residue (5.95 g, 66.6% yield). A 0.5 g sample was crystallized from methylene chloridehexanes. This provided a white solid which was dried in vacuo overnight at 80° C., mp 126°-129° C.

reactant | α,α-bis(4-fluorophenyl)-4-piperidineacetamide | 0.023 mol, 7.65 g | FC1=CC=C(C=C1)C(C(=O)N)(C1CCNCC1)C1=CC=C(C=C1)F | C19H20F2N2O
reactant | sodium bicarbonate | 0.023 mole, 3.36 g | C([O-])(O)=O.[Na+]
reactant | methyl chloroformate | 0.023 mole, 2.17 g | ClC(=O)OC | C2H3ClO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-[2-Amino-1,1-bis(4-fluorophenyl)-2-oxoethyl]-1-piperidinecarboxylic acid methyl ester | 5.95 g, 66.6% yield | COC(=O)N1CCC(CC1)C(C(=O)N)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C21H22F2N2O3
